US05998437
1.5 Grams of 5-nitroindole was dissolved in 70 ml of dimethylformamide, then 370 mg of sodium hydride (in oil) was added thereto, the mixture was stirred under nitrogen gas stream at 60° C. for 1 hour. Under cooling at 0° C., 1.63 g of 5-chloromethyl-1-isopropyl-1,2,3,4-tetrazole was added, the reaction mixture was stirred at room temperature for 4.5 hours. After the reaction was finished, water was added to the reaction mixture, then the separated crystals were collected by filtration and washed with water. The crystals were dissolved in dichloromethane, the solution was dried with anhydrous magnesium sulfate, and the solvent was removed by distillation under reduced pressure. The residue obtained was subjected to a silica gel column chromatography (eluent: dichloromethane→3% methanol/dichloromethane), there was obtained 2.3 g of 1-(1-isopropyl-1,2,3,4-tetrazol-5-ylmethyl)-5-nitroindole as in the form of yellow powder.

reactant | 5-nitroindole | [N+](=O)([O-])C=1C=C2C=CNC2=CC1 | C8H6N2O2
reactant | sodium hydride | 370 mg | [H-].[Na+]
reactant | 5-chloromethyl-1-isopropyl-1,2,3,4-tetrazole | 1.63 g | ClCC1=NN=NN1C(C)C | C5H9ClN4
reactant | water | O | H2O
solvent | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | ClCCl | CH2Cl2
product | 1-(1-isopropyl-1,2,3,4-tetrazol-5-ylmethyl)-5-nitroindole | 2.3 g | C(C)(C)N1N=NN=C1CN1C=CC2=CC(=CC=C12)[N+](=O)[O-] | C13H14N6O2
